US04277479
3.2 Grams of 6-[3-(1-cyclohexyltetrazol-5-yl)propoxy]-3,4-dihydrocarbostyril and 3.4 g of 90% DDQ are added to 100 ml of dioxane and this mixture is refluxed for9.5 hours and then cooled. After the reaction is completed, the solvent is distilled off and the residue obtained is dissolved in chloroform and the organic layer is washed with aqueous saturated NaHCO3 solution, and with water then dried with Na2SO4 and treated with an activatedcharcoal. After the solvent is removed by distillation, the resultant residue is refined by silica gel column chromatography [silica gel: Wakogel C-200; eluent:chloroform:methanol=10:1 (V/V)] and the crude crystals are recrystallized from chloroform to obtain 1.1 g of 6-[3-(1-cyclohexyltetrazol-5-yl)propoxy]carbostyril in the form of colorless needle-like crystals. Melting point: 211°-212° C.

reactant | 6-[3-(1-cyclohexyltetrazol-5-yl)propoxy]-3,4-dihydrocarbostyril | C1(CCCCC1)N1N=NN=C1CCCOC=1C=C2CCC(NC2=CC1)=O | C19H25N5O2
reactant | DDQ | 3.4 g | C(#N)C1=C(C(=O)C(=C(C1=O)Cl)Cl)C#N | C8Cl2N2O2
reactant | dioxane | 100 ml | O1CCOCC1 | C4H8O2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 6-[3-(1-cyclohexyltetrazol-5-yl)propoxy]carbostyril | 1.1 g | C1(CCCCC1)N1N=NN=C1CCCOC=1C=C2C=CC(NC2=CC1)=O | C19H23N5O2
